US07253164B2
To a solution of 3,4-dihydro-1H-quinolin-2-one (27 mmol) in 250 mL of anhydrous DMF is added NaH (60% in mineral oil) (30 mmol) and the mixture is stirred at room temperature for 30 minutes. 4-Methoxybenzyl chloride (30 mmol) is then added and the reaction mixture is stirred at room temperature for 2 hours. The solvent is evaporated. The residue is dissolved in 100 mL of water and extracted with CH2Cl2 three times. The combined organic layers are dried over MgSO4, filtered, and evaporated to give the crude 1-(4-methoxy-benzyl)-3,4-dihydro-1H-quinolin-2-one, which is used in the next step without further purification. Yield: 95%.

reactant | 3,4-dihydro-1H-quinolin-2-one | 27 mmol | N1C(CCC2=CC=CC=C12)=O | C9H9NO
reactant | NaH | 30 mmol | [H-].[Na+]
reactant | 4-Methoxybenzyl chloride | 30 mmol | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | 1-(4-methoxy-benzyl)-3,4-dihydro-1H-quinolin-2-one | Yield: 95% | COC1=CC=C(CN2C(CCC3=CC=CC=C23)=O)C=C1 | C17H17NO2
